US05248817
Synthesis of 6-Bromo-2,3-dimethoxybenzoic Acid
Using the procedure described herein above in Example 1, Method E, 2,3-dimethoxybenzoic acid was brominated with DBDMH to provide the following results (assay yields) after reacting for 22 hours at 20°-25° C:

reactant | 2,3-dimethoxybenzoic acid | COC1=C(C(=O)O)C=CC=C1OC | C9H10O4
reactant | DBDMH | CC1(C(=O)N(C(=O)N1Br)Br)C | C5H6Br2N2O2
product | 6-Bromo-2,3-dimethoxybenzoic Acid | BrC1=CC=C(C(=C1C(=O)O)OC)OC | C9H9BrO4
